US05302718
Ethyl4-fluoro-2-hydroxybenzoate
4-Fluoro-2-hydroxy-benzoic acid (10.8 g, 0.07 mol), sodium acetate (6.9 g, 0.084 mol), ethyl iodide (55 g, 0.35 mol) and dimethylformamide was stirred at ambient temperature for 48 h. The mixture was poured into water and extracted with n-hexane. The solution was filtered through a plug of silica gel and evaporated. The residue was almost pure product and was used directly in the next step. Yield 10.2 g, 80%.

reactant | 4-Fluoro-2-hydroxy-benzoic acid | 0.07 mol, 10.8 g | FC1=CC(=C(C(=O)O)C=C1)O | C7H5FO3
reactant | sodium acetate | 0.084 mol, 6.9 g | C(C)(=O)[O-].[Na+]
reactant | ethyl iodide | 0.35 mol, 55 g | C(C)I | C2H5I
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Ethyl4-fluoro-2-hydroxybenzoate | C(C)OC(C1=C(C=C(C=C1)F)O)=O | C9H9FO3
